US08377968B2
C. Synthesis of tert-butyl 2-(4-((3-fluoro-5-(trifluoromethyl)benzamido)methyl)piperidin-1-yl)ethylcarbamate (Compound 38)
A solution of tert-butyl 2-(4-(aminomethyl)piperidin-1-yl)ethylcarbamate (50 mg, 0.19 mmol), TEA (135 μL, 0.972 mmol), and 3-fluoro-5-(trifluoromethyl)benzoic acid (48 mg, 0.23 mmol) in a mixture of 1:1 CH2Cl2:THF (2 mL) was treated with a solution of HATU (111 mg, 0.292 mmol) in DMF (1 mL). The resulting solution was stirred overnight, then transferred to a test tube containing saturated aqueous NaHCO3 (4 mL) and EtOAc (4 mL). The biphasic mixture was mixed vigorously and allowed to separate for 15 minutes. After separation, the mixture was cooled to −20° C. until the aqueous layer was frozen. The organic layer was then poured off and the solvent was removed under reduced pressure at 50° C. The resulting residue was purified by HiTOPs.

reactant | tert-butyl 2-(4-(aminomethyl)piperidin-1-yl)ethylcarbamate | 0.19 mmol, 50 mg | NCC1CCN(CC1)CCNC(OC(C)(C)C)=O | C13H27N3O2
reactant | 3-fluoro-5-(trifluoromethyl)benzoic acid | 0.23 mmol, 48 mg | FC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H4F4O2
reactant | HATU | 0.292 mmol, 111 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaHCO3 | 4 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(4-((3-fluoro-5-(trifluoromethyl)benzamido)methyl)piperidin-1-yl)ethylcarbamate | FC=1C=C(C(=O)NCC2CCN(CC2)CCNC(OC(C)(C)C)=O)C=C(C1)C(F)(F)F | C21H29F4N3O3
